US07276516B2
4-(3-Cyclopentyl-indole-1-sulfonyl)-benzoic acid
Add to a stirring solution of 4-(3-Cyclopentyl-indole-1-sulfonyl)-benzoic acid methyl ester (2.0 g, 5.22 mmol) in THF (50 mL) and MeOH (25 mL), 5N NaOH (3 mL, 2.9 eq.). Stir the solution for 2 h at room temperature and the remove solvents to give a paste. Treat the paste with 1N HCl (25 mL) and a solid results. Dilute further with water (50 mL). Filter the solid, back-wash with water, and dry (20 mm Hg, 60° C.) to provide the pure title compound (1.63 g, 84%); 1H NMR (DMSO-d6) δ 8.06 (m, 4H), 7.93 (d, J=8.2 Hz, 1H), 7.63 (d, J=7.7 Hz, 1H), 7.53 (s, 1H), 7.37 (t, J=7.7 Hz, 1H), 7.28 (t, J=7.7 Hz, 1H), 3.17 (m, 1H), 2.08 (m, 2H), 1.69 (m, 6H); MS(ESI) m/z 368 (m−H).

reactant | 4-(3-Cyclopentyl-indole-1-sulfonyl)-benzoic acid methyl ester | 5.22 mmol, 2.0 g | COC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1CCCC1)=O | C21H21NO4S
reactant | NaOH | 5N, 3 mL, 2.9 eq. | [OH-].[Na+]
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | MeOH | 25 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 4-(3-Cyclopentyl-indole-1-sulfonyl)-benzoic acid | 1.63 g, 84% | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C20H19NO4S
